datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]CC)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]CC)[O]C 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)C)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)C)C 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1[H])CC.[O-:21]CCCCCC>>CCC1C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CC 21=20;20,10=10"
"[H][O:10]C([H])C([H])C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)O[H])C>>C1=CC=CC=C1N([C:20](=[O:10])O[H])C.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CC)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CC)[O-:10])CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]([O:21][H])([O]C)[S]CC.[Cl-]>>[Cl-].C[O:10][H].[H][O+:21]=[C:20]([O]C)[S]CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)CC)CC)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)CC)CCCCCC 10=20;20,21=21"
"[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])[O:10]C(CC)C(O)=C1[H]>>[O-:10]C(CC)/C(O)=C([C:20]([H])=[O:21])/[H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)=C([H])C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])C(C)/C([H])=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)[H])[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)[H])C 10=20;20,21=21"
"[OH:10]C(C(C1=C(C=CC=C1)[CH:20]([H])=[OH+:21])[H])C>>[OH:21][CH:20]2([H])C3=C(C(C([OH+:10]2)C)[H])C=CC=C3 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C)[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)=C(C)C([H])C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C([H])/C(C)=C(C)\[C:20](C)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)C)C)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)C)C)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CCCCCC.[O-:21]CCCCCC>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)[H])CCCCCC 21=20;20,10=10"
"[H][O+:10]([K])[C:21]([O-:20])(OCCCCCC)O[H]>>[O:20]=[C:21](OCCCCCC)O[H].[H][O:10][K] 20=21;21,10=10"
"C[O+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(CC)[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"CC[S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[OH:21][C:20]1(C)C(C)C(C)C([H])C(C)[OH+:10]1>>[OH:10]C(C)C([H])C(C)C(C)[C:20](C)=[OH+:21] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CCCCCC.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)[H])CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21]C)[O]C([H])C([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C([H])C([H])[S]2.CC[O:10][H] 21=20;20,10=10"
